US06586441B2
2-Amino-4-cyclohexylamino-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile and cyclohexylamine in ethanol. EI-MS m/e (%): 283 (M+, 22), 282 ([M—H]+, 20), 240 ([M—C2H5]+, 16), 226 ([M—C4H9]+, 36), 201 ([M—C6H10]+, 100).

reactant | 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)SC | C10H8N4OS
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-cyclohexylamino-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NC1CCCCC1)C#N)C=1OC=CC1 | C15H17N5O
